US04588746
A solution of N-benzyl-N-methyl-2-benzyl-3-(3-methoxyphenoxy)propylamine (7.0 g) in ethanol (100 ml) is hydrogenated at room temperature and atmospheric pressure until uptake ceases, using 10% palladium on charcoal (2.0 g) as catalyst. The catalyst is filtered off (Hi-flo) and the solvent removed under reduced pressure to give N-methyl-2-benzyl-3-(3-methoxyphenoxy)propylamine as an oil, which is converted with oxalic acid in ether of N-methyl-2-benzyl-3-(3-methoxyphenoxy)propylamine oxalate, m.p. 127°-129° C.

reactant | N-benzyl-N-methyl-2-benzyl-3-(3-methoxyphenoxy)propylamine | 7.0 g | C(C1=CC=CC=C1)N(C)CC(COC1=CC(=CC=C1)OC)CC1=CC=CC=C1 | C25H29NO2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2.0 g | [Pd] | Pd
product | N-methyl-2-benzyl-3-(3-methoxyphenoxy)propylamine | CNCC(COC1=CC(=CC=C1)OC)CC1=CC=CC=C1 | C18H23NO2
